US08084644B2
1-ethyl-2-methylpentyl N-phenyl-3-(trimethylsilyl)thiopropynimidate (0.60 g) was dissolved to methanol (12 mL), small amount of potassium carbonate was added to the solution under ice-cooling, and then stirred for 30 minutes. The reaction mixture was poured into saturated aqueous solution of sodium chloride. It was extracted with ethyl acetate. Obtained organic layer was washed with water, dried, and the solvent was distilled off to obtain 1-ethyl-2-methylpentyl N-(phenyl)thiopropynimidate (0.44 g).

reactant | 1-ethyl-2-methylpentyl N-phenyl-3-(trimethylsilyl)thiopropynimidate | 0.60 g | C1(=CC=CC=C1)N=C(C#C[Si](C)(C)C)SC(C(CCC)C)CC | C20H31NSSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
product | 1-ethyl-2-methylpentyl N-(phenyl)thiopropynimidate | 0.44 g | C1(=CC=CC=C1)N=C(C#C)SC(C(CCC)C)CC | C17H23NS
